US06114325
N-[3-(Dimethylamino)propyl]-{2-[(N-octadecylcarbamoyloxy)methyl]phenyl}formamide hydrochloride (Compound 23)
4N Hydrochloric acid--ethyl acetate solution (0.35 ml) was added to a solution of N-[3-(dimethylamino)propyl]-{2-[(N-octadecylcarbamoyloxy)methyl]phenyl}formamide (0.49 g) in ethyl acetate (10 ml) at room temperature. After being stirred for 5 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate, thereby yielding 0.41 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | N-[3-(dimethylamino)propyl]-{2-[(N-octadecylcarbamoyloxy)methyl]phenyl}formamide | 0.49 g | CN(CCCN(C=O)C1=C(C=CC=C1)COC(NCCCCCCCCCCCCCCCCCC)=O)C | C32H57N3O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.35 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(Dimethylamino)propyl]-{2-[(N-octadecylcarbamoyloxy)methyl]phenyl}formamide hydrochloride | 0.41 g | Cl.CN(CCCN(C=O)C1=C(C=CC=C1)COC(NCCCCCCCCCCCCCCCCCC)=O)C | InChI=1S/C32H57N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-25-33-32(37)38-28-30-23-19-20-24-31(30)35(29-36)27-22-26-34(2)3;/h19-20,23-24,29H,4-18,21-22,25-28H2,1-3H3,(H,33,37);1H
